US08754226B2
(S)-4-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid (834 mg, 1.97 mmol), acetohydrazide (219 mg, 2.96 mmol) and N-ethyl-N-isopropylpropan-2-amine (1375 μL, 7.90 mmol) were dissolved in CH2Cl2 (20 mL) and bis(2-oxooxazolidin-3-yl)phosphinic chloride (2010 mg, 7.90 mmol) was added and stirred at ambient temperature for 3 hours. The reaction was poured into water, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated to afford crude (S)-tert-butyl 4-(3-(4-(2-acetylhydrazinecarbonyl)-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (960 mg, 2.01 mmol, 102% yield) which was taken forward without further purification.

reactant | (S)-4-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid | 1.97 mmol, 834 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=O)O)C=C1)F)=O | C21H27FN2O6
reactant | acetohydrazide | 2.96 mmol, 219 mg | C(C)(=O)NN | C2H6N2O
reactant | N-ethyl-N-isopropylpropan-2-amine | 7.90 mmol, 1375 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | bis(2-oxooxazolidin-3-yl)phosphinic chloride | 7.90 mmol, 2010 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-tert-butyl 4-(3-(4-(2-acetylhydrazinecarbonyl)-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 2.01 mmol, 960 mg, 102% yield | C(C)(=O)NNC(=O)C1=CC(=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1)F | C23H31FN4O6
